* C:\users\thomas\Documents\git\PM4\3_Hardware\6_Analog_Signal_Processing\IF_amp.asc
* Generated by LTspice 24.1.10 for Windows.
V1 VCC 0 5
V2 N001 0 SINE(0.2 32u 2)
R7 VCC N012 6.8k
R8 N012 0 3.3k
C1 N012 0 10µ
X§U1 N001 N004 VCC 0 N002 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R1 N004 0 1k
R2 N002 N004 14k
C2 N003 N002 4.7µ
R3 N003 0 330k
X§U2 N003 N007 VCC 0 N005 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R4 N007 0 1k
R5 N005 N007 39k
R6 N006 N005 16k
C3 N006 0 1µ
X§U3 N006 N011 VCC 0 N008 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R9 N011 0 1k
R10 N008 N011 39k
R11 N009 N008 16k
C4 N009 0 1µ
C5 N010 N009 4.7µ
R12 N010 N012 330k
.tran 0 1 0.1 0.00001
.lib UniversalOpAmp2.lib
.backanno
.end
