* C:\users\thomas\Documents\git\PM4\3_Hardware\6_Analog_Signal_Processing\IF_amp_V5.asc
* Generated by LTspice 24.1.10 for Windows.
X§U1 N001 N003 VCC 0 N002 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
C1 N001 sig 10µ
R1 N001 vref 16k
X§U2 NC_01 NC_02 VCC 0 NC_03 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R2 N002 N003 200k
C2 N002 N003 47n
R3 N003 N006 20k
C3 N006 0 100µ
V1 sig 0 AC 1
V2 VCC 0 5
X§U3 N002 N005 VCC 0 N004 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R4 N004 N005 200k
C4 N004 N005 47n
R5 N005 N007 20k
C5 N007 0 100µ
.ac dec 1000 0.001 1000
* .tran 0 10 5 0.00001
.lib UniversalOpAmp2.lib
.backanno
.end
