* A dual opamp spice model
* As the MCP6002 model does not work properly with ngspice or LTspice
* the similar model of the AD8541 is used for spice simulation
* (c) hhrt@zhaw.ch 09.01.2023
* file name: MCP6002.lib
.subckt MCP6002 1out 1in- 1in+ vcc- 2in+ 2in- 2out vcc+
.include ad8541.cir
XU1A 1in+ 1in- vcc+ vcc- 1out AD8541
XU1B 2in+ 2in- vcc+ vcc- 2out AD8541
.ends