* A dual opamp ngspice model
* file name: MCP6002.lib
.subckt MCP6002 1out 1in- 1in+ vcc- 2in+ 2in- 2out vcc+
.include MCP6001.lib
XU1A 1in+ 1in- vcc+ vcc- 1out MCP6001
XU1B 2in+ 2in- vcc+ vcc- 2out MCP6001
.ends