* A dual opamp ngspice model
* file name: opa810_dual.lib
.subckt OPA2810 1out 1in- 1in+ vcc- 2in+ 2in- 2out vcc+
.include opa810_a.lib
XU1A 1in+ 1in- 1out vcc+ vcc- OPA810
XU1B 2in+ 2in- 2out vcc+ vcc- OPA810
.ends