* Almost ideal rail-to-rail opamp
* Aol = open-loop gain
* GBW = Gain-Bandwidth product
* (c) hhrt@zhaw.ch, 15.12.2022
* connection order: in- in+ out vcc+ vcc-
.subckt opamp 1 2 3 4 5
* voltage dependant current source with gain = Aol
G1 0 3 2 1 {Aol}
* RC lowpass at the output for gain-bandwith frequency response
R1 3 0 1
C1 3 0 {Aol/GBW/6.28}
* limit output swing to rails
* Dp 3 11 dx
* Vp 4 11 dc 0.6
* Dn 12 3 dx
* Vn 12 5 dc 0.6
* .model dx D(Is=1u)
.ends opamp
