* A dual opamp spice model
* file name: opamp_dual.lib
.subckt opamp_dual 1out 1in- 1in+ vcc- 2in+ 2in- 2out vcc+
.include opamp.lib
XU1A 1in- 1in+ 1out vcc+ vcc- opamp
XU1B 2in- 2in+ 2out vcc+ vcc- opamp
.ends